US06087380
3-Methyl-2-[(4-amidinophenyl)-thiomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 2 from 3-methyl-2-[(4-amidinophenyl)-thiomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 88% of theory, C25H24N6O3S (488.56) Rf value: 0.21 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) ##EQU108##

reactant | 3-methyl-2-[(4-amidinophenyl)-thiomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CSC2=CC=C(C=C2)C(N)=N)C)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
product | 3-Methyl-2-[(4-amidinophenyl)-thiomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 88% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CSC2=CC=C(C=C2)C(N)=N)C)CCC(=O)O | InChI=1S/C25H24N6O3S.ClH/c1-30-21(15-35-19-9-7-16(8-10-19)23(26)27)29-20-13-17(14-28-24(20)30)25(34)31(12-11-22(32)33)18-5-3-2-4-6-18;/h2-10,13-14H,11-12,15H2,1H3,(H3,26,27)(H,32,33);1H
